US08283353B2
4′-{[4-(4-formylbenzyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-({4-[4-hydroxymethylbenzyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (1.3 g), manganese dioxide (7.0 g) and methylene chloride (15 mL) was stirred at room temperature for 16 hr. The insoluble material was filtered off through celite, and the filtrate was concentrated to give the title compound as a colorless solid (1.3 g, 96%).

reactant | 4′-({4-[4-hydroxymethylbenzyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.3 g | OCC1=CC=C(CN2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN3)C=C1 | C30H27N5O2
catalyst | manganese dioxide | 7.0 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4′-{[4-(4-formylbenzyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.3 g, 96% | C(=O)C1=CC=C(CN2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN3)C=C1 | C30H25N5O2
